US07745475B2
Methyl 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-[(phenylmethyl)oxy]benzoate (1000 mg, 2.33 mmol) was dissolved in methanol (30 mL) and 10% palladium on charcoal (100 mg) added. The mixture was stirred at ambient temperature for 36 h, filtered, evaporated in vacuo and chromatographed, 0-100% ethyl acetate in isohexane, to give methyl 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-hydroxybenzoate (750 mg). The material was used without further purification.

reactant | Methyl 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-[(phenylmethyl)oxy]benzoate | 2.33 mmol, 1000 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)OC)C=C(C1)OCC1=CC=CC=C1)C | C24H34O5Si
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
product | methyl 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-hydroxybenzoate | 750 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)OC)C=C(C1)O)C | C17H28O5Si
